US06476045B2
Methyl 5-Chloro-2-(4-chlorophenyl)-1H-pyrrolo[2,3-c]pyridine-3-propanoate
Prepared from 6-chloro-4-iodo-3-pyridinamine (Description 8) and methyl 5-(4-chlorophenyl)-4-pentynoate (Description 2) according to the method of Description 4. 1H NMR (360 MHz, CDCl3) δ 8.56 (1H, br s), 8.50 (1H, s), 7.50 (5H, m), 3.63 (3H, s), 3.15 (2H, t, J 7.9 Hz), and 2.62 (2H, t, J 7.9 Hz). m/z (ES+) 349, 351 (M+1).

reactant | 6-chloro-4-iodo-3-pyridinamine | ClC1=CC(=C(C=N1)N)I | C5H4ClIN2
reactant | methyl 5-(4-chlorophenyl)-4-pentynoate | ClC1=CC=C(C=C1)C#CCCC(=O)OC | C12H11ClO2
product | Methyl 5-Chloro-2-(4-chlorophenyl)-1H-pyrrolo[2,3-c]pyridine-3-propanoate | ClC=1C=C2C(=CN1)NC(=C2CCC(=O)OC)C2=CC=C(C=C2)Cl | C17H14Cl2N2O2
